US04293669
4.8 g of isophthalic acid and 33.6 g of trimellitic acid are added at room temperature to 419 g of a solution of N,N'-bis-[methoxy carbonyl propyl-(2)-]-4,4'-diaminodiphenyl methane in a mixture of 36% by weight of γ-butyrolactone and 64% by weight of toluene (29.2% N), followed by the addition at 50° C. of 204 g of 4,4'-diisocyanatodiphenylmethane. After stirring for 2 hours at 50° C., another 87.4 g of 4,4'-diisocyanatodiphenyl methane and 0.6 g of endoethylene piperazine are added at 50° C., followed by homogenisation for 1 hour at 50° C. Then another 201.2 g of trimellitic acid anhydride and 120 g of terephthalic acid dimethyl ester are added to this solution in portions at 50° C., followed by homogenisation for 30 minutes at 50° C. The suspension obtained is left standing overnight at room temperature and, on the following day, is heated to 205° C. with elimination of carbon dioxide, methanol and toluene, maintained for 3 hours at 205° C. and, then, for 1 hour at 215° C. 218.8 g of terephthalic acid dimethyl ester are then added at from 170° to 180° C., followed by the addition at from 150° to 160° C. of 318 g of N,N',N"-tris-hydroxyethyl triazolidine-3,5-dione, 1.8 g of lead acetate and 0.6 g of titanium tetrabutylate. The mixture is then heated for 2 hours to 170° C. Then 30 g of xylene and 160 g of a polyester produced from 4 moles of terephthalic acid, 1.5 moles of glycerol and 3 moles of glycol (OH-content 4.53%, acid number 4.8 mg KOH) are added at from 160° to 170° C., after which the mixture is again subjected to condensation for 3 hours at from 200° to 220° C. first directly and, finally, in vacuo until a sample diluted to 50% by weight with γ-butyrolactone has a viscosity of approximately 10,000 mPa.s at 25° C. 1501 g of a brittle, approximately 80% by weight resin are obtained, of which a 15% by weight solution in γ-butyrolactone has a viscosity of 156 mPa.s at 25° C.

reactant | 4,4'-diaminodiphenyl methane | C1=CC(=CC=C1CC2=CC=C(C=C2)N)N | C13H14N2
reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
reactant | 4,4'-diisocyanatodiphenylmethane | 204 g | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
reactant | trimellitic acid anhydride | 201.2 g | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
reactant | terephthalic acid dimethyl ester | 120 g | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
reactant | carbon dioxide | C(=O)=O | CO2
reactant | terephthalic acid dimethyl ester | 218.8 g | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
reactant | glycerol | 1.5 moles | OCC(O)CO | C3H8O3
catalyst | titanium tetrabutylate | 0.6 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
catalyst | isophthalic acid | 4.8 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
catalyst | trimellitic acid | 33.6 g | C(C=1C(C(=O)O)=CC(C(=O)O)=CC1)(=O)O | C9H6O6
catalyst | piperazine | 0.6 g | N1CCNCC1 | C4H10N2
catalyst | lead acetate | 1.8 g | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
catalyst | xylene | 30 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | terephthalic acid | 4 moles | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
